US07507740B2
(i) Production of tert-butyl 3-{[5-amino-6-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)pyrimidin-4-yl]ethynyl}benzylcarbamate
6-Iodo-N4-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}pyrimidine-4,5-diamine hydroiodide (500 mg) was dissolved in a mixed solvent of acetonitrile (14.8 mL)/triethylamine (11.0 mL), and tert-butyl 3-ethynylbenzylcarbamate (247 mg), trans-dichlorobis(triphenylphosphine)palladium(II) (31.3 mg) and copper(I) iodide (10.2 mg) were sequentially added. The title compound (376 mg) was obtained as a powder by the reaction in the same manner as in Example 9 (iv).

reactant | 6-Iodo-N4-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}pyrimidine-4,5-diamine hydroiodide | 500 mg | I.IC1=C(C(=NC=N1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C)N
reactant | tert-butyl 3-ethynylbenzylcarbamate | 247 mg | C(#C)C=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C14H17NO2
solvent | acetonitrile | 14.8 mL | C(C)#N | C2H3N
solvent | triethylamine | 11.0 mL | C(C)N(CC)CC | C6H15N
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 31.3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 10.2 mg | [Cu]I
product | tert-butyl 3-{[5-amino-6-({3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}amino)pyrimidin-4-yl]ethynyl}benzylcarbamate | 376 mg | NC=1C(=NC=NC1NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C)C#CC=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C31H32N6O3
